US07396844B1
Synthesis of N-[2-(3-cyanophenoxy)ethyl]-4-aminobenzamide
4.00 g (20.4 mmol) of 3-(2-aminoethoxy)benzonitrile hydrochloride was dissolved in 50 ml of dimethylformamide. 6.2 ml (43.8 mmol) of triethylamine, 2.00 g (14.6 mmol) of p-aminobenzoic acid, 1.98 g (14.6 mmol) of 1-hydroxybenzotriazole and 2.80 g (14.6 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride were added to the solution at 0° C., and they were stirred at room temperature overnight. After the treatment with ethyl acetate as the extractant in an ordinary manner, the product was purified by the silica gel chromatography to obtain the title compound.

reactant | 3-(2-aminoethoxy)benzonitrile hydrochloride | 20.4 mmol, 4.00 g | Cl.NCCOC=1C=C(C#N)C=CC1
reactant | triethylamine | 43.8 mmol, 6.2 ml | C(C)N(CC)CC | C6H15N
reactant | p-aminobenzoic acid | 14.6 mmol, 2.00 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | 1-hydroxybenzotriazole | 14.6 mmol, 1.98 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 14.6 mmol, 2.80 g | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-[2-(3-cyanophenoxy)ethyl]-4-aminobenzamide | C(#N)C=1C=C(OCCNC(C2=CC=C(C=C2)N)=O)C=CC1 | C16H15N3O2
